US05840732
ii) Synthesis of 5-propylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione hydrochloride
To a methanol solution of 0.691 g (2.0 mmol) of 5-propylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione, 0.5 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was washed with ether to yield 0.79 g (quant., yellow oily substance) of the desired product.

reactant | 5-propylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 2.0 mmol, 0.691 g | C(CC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C17H19N3O3S
reactant | hydrochloric acid ethyl acetate | 4N, 0.5 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-propylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione hydrochloride | Cl.C(CC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C17H19N3O3S.ClH/c1-2-6-14-16(21)20(17(22)24-14)10-3-4-12-23-13-7-5-9-19-11-8-18-15(13)19;/h5-9,11H,2-4,10,12H2,1H3;1H
